US08975254B2
(R)—N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-1-methyl-1H-imidazole-4-carboxamide
(R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (300 mg, 1.15 mmol) was coupled with 1-methyl-1H-imidazole-4-carboxylic acid (174 mg, 1.38 mmol) using the method of Example 34(d). Crude product was purified by CombiFlash (column: C-18, eluent: 0-100% MeCN in water) to yield 61 mg (14%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.45 (d, 3H), 3.52-3.72 (m, 4H), 3.67 (s, 3H), 4.63-4.75 (m, 1H), 6.95 (d, 1H), 7.62 (dd, 1H), 7.89 (d, 1H), 7.99 (s, 1H), 8.00 (s, 1H), 8.10 (t, 1H), 8.18 (t, 1H).

reactant | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.15 mmol, 300 mg | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4
reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 1.38 mmol, 174 mg | CN1C=NC(=C1)C(=O)O | C5H6N2O2
product | (R)—N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-1-methyl-1H-imidazole-4-carboxamide | 61 mg, 14% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@@H](CNC(=O)C=1N=CN(C1)C)C | C18H17ClN6O
